US05635510
30.2 Synthesis of 1-tert-butoxycarbonyl-4-cyano-4-(naphth-2-yl)-piperidine
Combine naphth-2-ylacetonitrile (10 mmol) and 2-chloro-N-(2-chloroethyl)-N-tert-Butoxycarbonyl-ethanamine (11 mmol) in DMSO (30 mL). Add portionwise, NaNH2 (22 mmol). After the addition, stir for an additional 0.5 h. Pour the contents of the flask over ice (150 g). Extract the mixture with dichloromethane. Dry the organic phase over MgSO4, filter, and concentrate in vacuo to give a residue. Purify to give the title compound.

reactant | naphth-2-ylacetonitrile | 10 mmol | C1=C(C=CC2=CC=CC=C12)CC#N | C12H9N
reactant | 2-chloro-N-(2-chloroethyl)-N-tert-Butoxycarbonyl-ethanamine | 11 mmol | ClCCN(C(=O)OC(C)(C)C)CCCl | C9H17Cl2NO2
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 1-tert-butoxycarbonyl-4-cyano-4-(naphth-2-yl)-piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC2=CC=CC=C2C=C1)C#N | C21H24N2O2
